US08008302B2
Intermediate 9: (3R)-3-Methyl-1-[4-(trifluoromethyl)pyridin-2-yl]piperazine
To a solution of (R)-2-methyl piperazine (4.0 g, 40 mmol) in xylene (100 mL) at 140° C. under nitrogen was added 2-chloro-4-trifluoromethylpyridine (7.26 g, 40.0 mmol) slowly over a period of 30 min. The heating was continued for additional 12 h and cooled. The reaction mixture was evaporated to a residue and the residue was purified by chromatography using chloroform/methanol (8/2) as eluent to afford of the title compound as a liquid (3.5 g, 36%). TLC—Chloroform/MeOH (8/2); Rf: 0.25.

reactant | (R)-2-methyl piperazine | 40 mmol, 4.0 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 2-chloro-4-trifluoromethylpyridine | 40.0 mmol, 7.26 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (3R)-3-Methyl-1-[4-(trifluoromethyl)pyridin-2-yl]piperazine | 3.5 g, 36% | C[C@@H]1CN(CCN1)C1=NC=CC(=C1)C(F)(F)F | C11H14F3N3
